US04048423
Preparation of 1-tert.butylazo-1-cyanocyclohexane
To a rapidly stirred mixture of 39.0 g. (0.2 m. ) 1-tert.-butylhydrazo-1-cyanocyclohexane, 200 ml. methylene chloride and 100 ml. water was added 14.3 g. (0.2 m.) chlorine at such a rate that the reaction temperature did not exceed 5 ° C. The reaction was stirred an additional 15 mins. after the addition was complete. The methylene chloride layer was separated, washed twice with 50 ml. portions of saturated NaHCO3 solution, dried over anhydrous sodium sulfate, filtered and the methylene chloride evaporated on a rotating evaporator to obtain 35.0 g. of liquid product that assayed 86.5% by an ultra violet spectrophotometric analysis. Distillation gavea product, b.p. 71° C./1.2 mm. of Hg that assayed 97.6% as 1-tert.-butylazo-1-cyanocyclohexane. The infrared spectrum was in accord with this structure.

reactant | 1-tert.-butylhydrazo-1-cyanocyclohexane | C(C)(C)(C)NNC1(CCCCC1)C#N | C11H21N3
reactant | methylene chloride | C(Cl)Cl | CH2Cl2
reactant | chlorine | ClCl | Cl2
solvent | water | O | H2O
product | 1-tert.butylazo-1-cyanocyclohexane | C(C)(C)(C)N=NC1(CCCCC1)C#N | C11H19N3
